Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
left hip fracture
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ with hx of HTN and Meningioma presents from ___ 
with a fractured right hip while on vacation in ___. The 
patient states that she suffered a mechincal fall while on 
vacation 8 days ago. The pt states she underwent a surgical 
intervention (ORIF) in ___ and has been treat there since 
that time. The patient states she has been unable to bear weight 
since that time. The pt denies fevers, chills, increased lower 
extremity swelling, chest pain or pleuritic pain.  
.  
Upon arrival to the ED intial vitals 98.5 131/74 106 18 98% RA. 
Exam notable for ecchymosis on left ___. Labs notable for BC of 
11.6, Hct 27.2 (baseline mid to high ___. itals prior to 
transfer to the floor 98.8 97 120/57 16 97RA.  
.  
Upon arrival to the floor the patient has no complaints. Denies 
chest pain, pleuritic pain, shortness of breath or increased leg 
swelling.
 
Past Medical History:
# Meningioma - Dx ___ with change in mental status -  
s/p craniotomy ___ with Dr. ___. Remains on Dilantin for  

life. Followed annually by Dr. ___. MRI ___ 
 
___ evidence of recurrence. Bone density being monitored.  
# Hyperparathyroidism: s/p parathyroid adenoma removal (___)  
with Dr. ___ has ___ with Dr. ___. Has  
annual followup with Dr. ___.  
# Hypothyroidism  
# Right nephrolithotomy for treatment of renal staghorn 
calculus.  
___, hx of recurrent kidney stones, previously seen by 
Dr.  
___. CT scan ___ residual stones were  
noted.  
# Hypertension with Renal insufficiency - Cr 1.6.  
# Psoriasis scalp-well controlled with Neutrogena T/Gel once or  

twice weekly.  
# Mild to moderate mitral regurgitation- repeat echocardiogram  
___ MR.  
# Cholelithiasis-asymptomatic  
# Squamous cell carcinoma -anterior chest wall. No recurrence.  
Followed by Dr. ___ at ___ dermatology  
 
Social History:
___
Family History:
Non-Contributory. No known early CAD. 
 
Physical Exam:
Vitals: 98.8 97 120/57 16 97%RA  
Gen: NAD, AOX3  
HEENT: PERRLA, EOMI, MMM, sclera anicteric, not injected, no 
exudates  
Neck: no thyromegally, JVD:  
Cardiovascular: RRR normal s1, s2, no murmurs, rubs or gallops. 
No loud P2 or appreciable RV heave.  
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales or rhonchi  
Abd: Soft, non-tender, non distended, no heptosplenomegally, 
bowel sounds present, guaiac negative  
Extremities: Left hip with ecchymoses. Surgical site with 
dressing c/d/i. Bilateral ___ stockings. ___ to palpation 
on skin bilaerally. No appreciable cords.  
Neurological: CN II-XII intact, normal attention, sensation 
normal, Integument: Warm, moist, no rash or ulceration  
Psychiatric: appropriate, pleasant, not anxious  
 
Pertinent Results:
___ 08:45PM BLOOD WBC-11.6* RBC-3.00*# Hgb-9.3*# Hct-27.2*# 
MCV-91 MCH-31.1 MCHC-34.3 RDW-18.3* Plt ___
___ 06:00AM BLOOD WBC-7.7 RBC-2.88* Hgb-8.8* Hct-25.9* 
MCV-90 MCH-30.5 MCHC-33.9 RDW-18.1* Plt ___
___ 08:45PM BLOOD ___ PTT-22.1 ___
___ 08:45PM BLOOD Glucose-95 UreaN-23* Creat-1.1 Na-146* 
K-3.6 Cl-109* HCO3-27 AnGap-14
___ 05:50AM BLOOD Iron-41
___ 05:50AM BLOOD calTIBC-187* VitB12-470 Folate-8.7 
Ferritn-98 TRF-144*
___ 06:40PM URINE Blood-NEG Nitrite-NEG Protein-25 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-MOD
___ 06:40PM URINE RBC-0 ___ Bacteri-MOD Yeast-NONE 
___

Discharge:
___ 06:00AM BLOOD WBC-7.7 RBC-2.88* Hgb-8.8* Hct-25.9* 
MCV-90 MCH-30.5 MCHC-33.9 RDW-18.1* Plt ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-79 UreaN-19 Creat-1.0 Na-142 
K-3.7 Cl-108 HCO3-24 AnGap-14

hip XR (prelim read): No e/o acute fx or hardware 
complication/failure. Increased bony bridging compared to 
___.

 
Brief Hospital Course:
The patient was admitted after returning from ___, as she was 
still having severe hip pain with movement.  X-rays suggested no 
hardware malfunction.  The Orthopedics service was consulted, 
who evaluated the patient and recommended rehabilitation with 
physical therapy.  The patient was also noted to have anemia 
with a hematocrit drop to 27 from the mid-30s approximately 1.5 
months ago.  This was likely due to her fracture, as a hematoma 
was noted on the side of the hip without evidence of expansion 
during the hospitalization.  Her hematocrit remained stable. and 
was 25 at the time of discharge.

Additionally, she was found to have pyuria on urinalysis; 
however, the patient denied dysuria.  For this reason, 
antibiotic treatment was deferred, although this should continue 
to be followded as an outpatient.
 
Medications on Admission:
Phoslo 667mg 2 capsules TID  
Levothyroxine 112mcg PO Daily  
Lisinopril 5mg PO Daily  
Phenytoin 100mg PO TID  
ASA 81mg PO Daily  
Calcium Citrate 250mg PO Daily  
Vitamin D 400mg 
 
Discharge Medications:
1. Levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Phenytoin Sodium Extended 100 mg Capsule Sig: One (1) Capsule 
PO Q8H (every 8 hours).  
4. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. Calcium Citrate 250 mg Tablet Sig: One (1) Tablet PO once a 
day.  
6. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
7. Calcium Acetate 667 mg Capsule Sig: Two (2) Capsule PO BID (2 
times a day).  
8. Enoxaparin 30 mg/0.3 mL Syringe Sig: One (1) injection 
Subcutaneous Q12H (every 12 hours).  
9. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours).  
10. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for pain.  
11. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
12. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
1. hip fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were seen at ___ after a hip fracture and repair.  You 
were evaluated by our orthopedic surgeons, who requested X-rays 
and then recommended that you undergo intensive physical 
rehabilitation.

You were found to have a low red blood cell count compared to 
two months ago.  We suspect that this was because of your fall 
and surgery, as it appears that you have a blood collection in 
your leg.  We feel that this is stable and you should continue 
to watch this; if you see signs of increased swelling in your 
leg, please call your doctor.

The following medications were changed during this 
hospitalization:
ADDED tylenol for pain control
ADDED oxycodone for pain control
ADDED docusate for constipation
ADDED senna for constipation
 
Followup Instructions:
___